US05234946
Production of 5-(5-hydroxymethyl-2-furyl)oxazole
300 mg of 5-formylfurfuryl alcohol see Japanese Laid-Open Patent Publication No. 154758/1979 was dissolved in 10 ml of methanol, and 502 mg of p-toluenesulfonylmethyl isocyanide and 329 mg of potassium carbonate were added. The mixture was heated under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in a mixture of water and ethyl acetate. The organic layer was separated, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography Wakogel C-200, 45 g; eluting solvent: hexane/ethyl acetate=3/2→1/1] to give 260 mg (yield 66%) of the captioned compound as a pale yellow crystalline powder.

reactant | 5-formylfurfuryl alcohol | 300 mg | C(=O)C1=CC=C(CO)O1 | C6H6O3
reactant | p-toluenesulfonylmethyl isocyanide | 502 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 329 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 10 ml | CO | CH4O
product | 5-(5-hydroxymethyl-2-furyl)oxazole | 260 mg, yield 66% | OCC1=CC=C(O1)C1=CN=CO1 | C8H7NO3
